US07709466B2
62 mg 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-phenyl-6-piperidin-1-ylmethyl-1H-indole are dissolved in 0.5 mL ethanol. 0.75 mL 1 N aqueous sodium hydroxide are added. The reaction mixture is heated to 150° C. in a microwave oven for 15 minutes. Purification by HPLC affords 36 mg (58%) 4-(3-phenyl-6-piperidin-1-ylmethyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one as its trifluoro-acetate salt.

reactant | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-phenyl-6-piperidin-1-ylmethyl-1H-indole | 62 mg | COC=1N=NC(=CC1C=1NC2=CC(=CC=C2C1C1=CC=CC=C1)CN1CCCCC1)C1=CC=NC=C1 | C30H29N5O
reactant | sodium hydroxide | 1 N, 0.75 mL | [OH-].[Na+]
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 4-(3-phenyl-6-piperidin-1-ylmethyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | 36 mg, 58% | C1(=CC=CC=C1)C1=C(NC2=CC(=CC=C12)CN1CCCCC1)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C29H27N5O
